US08383652B2
618 μL (3.8 mmol) of heptyl isocyanate are added to a solution of 750 mg (2.5 mmol) of ethyl 2-methyl-3-(3′-methylaminobiphenyl-4-yl)acrylate in 10 mL of dichloromethane in the presence of 2 mL of triethylamine. The reaction mixture is stirred for 12 hours at 50° C. The reaction is stopped by addition of 50 mL of water and extraction with ethyl acetate. The organic phases are washed with sodium chloride solution and dried over magnesium sulfate. The solvents are evaporated off, and the residue is then purified by chromatography on a column of silica eluted with a 7/3 heptane/ethyl acetate mixture. 860 mg (78%) of ethyl (E)-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]-2-methylacrylate are obtained.

reactant | heptyl isocyanate | 3.8 mmol, 618 μL | C(CCCCCC)N=C=O | C8H15NO
reactant | ethyl 2-methyl-3-(3′-methylaminobiphenyl-4-yl)acrylate | 2.5 mmol, 750 mg | CC(C(=O)OCC)=CC1=CC=C(C=C1)C1=CC(=CC=C1)NC | C19H21NO2
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | water | 50 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (E)-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]-2-methylacrylate | 860 mg, 78% | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)/C=C(/C(=O)OCC)\C)=O | C27H36N2O3
